US04959364
Preparation of 5'-mercapto[1,1':3',1"-terphenyl]-2'-ol
2'-Hydroxy[1,1':3',1"-terphenyl]-5'-yl thiocyanate (32.2 g, 0.106 mole) was dissolved in acetone (150 ml) and water (1.9 ml), stirred and cooled to -5° C. Triethylphosphine (15.7 ml, 0.106 mole) was added dropwise over a period of 40 minutes. The reaction was stirred at 0° C. for 1 hour and then at room temperature for 2 hours. The solvent was evaporated and the product isolated by chromatography on silica.

reactant | 2'-Hydroxy[1,1':3',1"-terphenyl]-5'-yl thiocyanate | 0.106 mole, 32.2 g | OC1=C(C=C(C=C1C1=CC=CC=C1)SC#N)C1=CC=CC=C1 | C19H13NOS
reactant | Triethylphosphine | 0.106 mole, 15.7 ml | C(C)P(CC)CC | C6H15P
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | water | 1.9 ml | O | H2O
product | 5'-mercapto[1,1':3',1"-terphenyl]-2'-ol | SC=1C=C(C(=C(C1)C1=CC=CC=C1)O)C1=CC=CC=C1 | C18H14OS
